US05731315
A. 5-Chloro-3-(thiophene-2-yl)pyridine
The title compound (0.21 g, 1.08 mmol) was prepared from 3,5-dichloropyridine (1.0 g, 6.76 mmol) and 2-thiophene boronic acid (0.95 g, 7.43 mmol) as described in EXAMPLE 48, Part B.

reactant | 3,5-dichloropyridine | 6.76 mmol, 1.0 g | ClC=1C=NC=C(C1)Cl | C5H3Cl2N
reactant | 2-thiophene boronic acid | 7.43 mmol, 0.95 g | S1C(=CC=C1)B(O)O | C4H5BO2S
product | 5-Chloro-3-(thiophene-2-yl)pyridine | 1.08 mmol, 0.21 g | ClC=1C=C(C=NC1)C=1SC=CC1 | C9H6ClNS
